US05001125
A mixture of 3.3 parts of 3,6-dichloropyridazine, 3.3 parts of 1-(2-pyridinyl)piperazine, 1.5 parts of sodium hydrogencarbonate and 120 parts of ethanol was stirred and refluxed over weekend. The reaction mixture was evaporated. Water was added to the residue and the product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (99:1 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of 2-propanol and tetrahydrofuran, yielding 2.5 parts (45.3%) of 3-chloro-6-[4-(2-pyridinyl)-1-piperazinyl]pyridazine; mp. 194.7° C. (compound 213).

reactant | 3,6-dichloropyridazine | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | 1-(2-pyridinyl)piperazine | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 3-chloro-6-[4-(2-pyridinyl)-1-piperazinyl]pyridazine | 45.3% | ClC=1N=NC(=CC1)N1CCN(CC1)C1=NC=CC=C1 | C13H14ClN5
